US05128463
2,6-Dideoxy-3,4-di-O-acetyl-L-arabino-hexopyranose (2-deoxy-L-rhamnose)
To a solution of 3,4-di-O-acetyl-L-rhamnal (5.0 g) and lithium bromide hydrate (5.0 g) in acetonitrile (150 ml), activated resin prepared as in Example 1 (3.0 g) and water (6 ml) were added and stirred at room temperature for 15 min. The product was isolated as described for Example 1. Purification by chromatography on a column of Silica Gel using ethyl acetate-hexane 3:8) as eluant gave the title compound (3.75 g). α:β=2:1. [α]D20 =-96.8°±2° (c 0 96. CHCl3). 1H NMR δ: 5.36 (H-1α), 5.33 (m, H-3α), 4.98 (m, H-3β), 4.90 (dd, H-1β), 4.75 (t, H-4), 4.12 (m, H-5α), 3.54 (m, H-5β), 2.39 and 2.26 (m, H-2eq), 1.77 and 1.66 (m, H-2ax), 1.23 and 1.17 (d, CH3). MS (calc. mass=232). Obs. m/e 231.13, 215.12, 155.09 (100 %).

reactant | 3,4-di-O-acetyl-L-rhamnal | 5.0 g | C[C@H]1[C@@H]([C@H](C=CO1)OC(=O)C)OC(=O)C | C10H14O5
reactant | lithium bromide hydrate | 5.0 g | O.[Br-].[Li+]
reactant | water | 6 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,6-Dideoxy-3,4-di-O-acetyl-L-arabino-hexopyranose | 3.75 g | C(C)(=O)O[C@H]1CC(O)O[C@H]([C@@H]1OC(C)=O)C | C10H16O6
